US08802678B2
To a solution of 114 mg (0.25 mmol) of N-methoxy-N-methyl-2-(4-{2-[4-(3-trifluoromethylphenyl)piperazin-1-yl]ethyl}-cyclohexylidene)acetamide in 5 mL of dry tetrahydrofuran cooled to 0° C. is added 0.2 mL (0.50 mmol) of a 22% methylmagnesium chloride solution in tetrahydrofuran. The mixture is warmed up to 5° C. and stirred for 90 minutes. Hydrolysis is performed by slow addition of 3 mL of water. The product is extracted 3 times with ethyl acetate. The organic phases are combined, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained residue is purified over 5 g of silica gel (eluant dichloromethane/methanol 95/5) to give 43 mg (44%) of 1-(4-{2-[4-(3-trifluoromethylphenyl)piperazin-1-yl]ethyl}cyclohexylidene)propan-2-one as an oil.

reactant | N-methoxy-N-methyl-2-(4-{2-[4-(3-trifluoromethylphenyl)piperazin-1-yl]ethyl}-cyclohexylidene)acetamide | 0.25 mmol, 114 mg | CON(C(C=C1CCC(CC1)CCN1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F)=O)C | C23H32F3N3O2
reactant | methylmagnesium chloride | C[Mg]Cl
reactant | water | 3 mL | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1-(4-{2-[4-(3-trifluoromethylphenyl)piperazin-1-yl]ethyl}cyclohexylidene)propan-2-one | 43 mg, 44% | FC(C=1C=C(C=CC1)N1CCN(CC1)CCC1CCC(CC1)=CC(C)=O)(F)F | C22H29F3N2O
